US07465825B2
5-Benzyl-5-{2-[4′-(2-benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione
A solution of 5-{2-[4′-(2-benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]dioxane-4,6-dione (200 mg, 0.37 mmol) in THF/DMF (5:1; 6 mL) was added dropwise to a stirred suspension of sodium hydride (95%, 10.2 mg, 0.40 mmol) in anhydrous THF (5 mL) at room temperature. The clear solution was stirred at room temperature for 30 mins and then a solution of benzyl bromide (76 mg, 0.44 mmol) in THF (5 mL) was added dropwise, followed by the addition of tetra-n-butylammonium iodide (5 mg) as a solid. The reaction mixture was warmed to 60° C. for 4 hrs (TLC control), cooled to room temperature and then water (10 mL) was added cautiously. The reaction mixture was extracted with diethyl ether (3×15 mL). The combined extract was washed with water (2×10 mL), brine (3×10 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by trituration and filtration from MeOH afforded the title compound as a pale yellow solid (210 mg). 1H-NMR (CDCl3, 300 MHz): δ 8.12 (2H, d, J=8 Hz, Ar—H), 7.88 (4H, d, J=6 Hz, Ar—H), 7.53-7.69 (4H, m, Ar—H), 7.26 (1H, m, Ar—H), 7.14 (11H, m, Ar—H), 4.26 (2H, s, PhCH2), 4.16 (2H, CH2CO), 3.38 (2H, s, PhCH2), 1.98 (3H, s, Me), 0.78 (3H, s, Me).

reactant | 5-{2-[4′-(2-benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]dioxane-4,6-dione | 0.37 mmol, 200 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)C(CC3C(OC(OC3=O)(C)C)=O)=O)C=C1)C=CC=C2 | C35H28O6
reactant | sodium hydride | 0.40 mmol, 10.2 mg | [H-].[Na+]
reactant | benzyl bromide | 0.44 mmol, 76 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 mL | O | H2O
solvent | THF DMF | 6 mL | C1CCOC1.CN(C)C=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-Benzyl-5-{2-[4′-(2-benzylbenzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione | 210 mg | C(C1=CC=CC=C1)C1(C(OC(OC1=O)(C)C)=O)CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)CC2=CC=CC=C2 | C42H34O6
